US07851473B2
(2) 2-Bromo-4-(2,4-difluorophenyl)-1,3-thiazole
A 25% hydrogen bromide/acetic acid (25 ml) solution was added to a solution of 2-(2,4-difluorophenyl)-2-oxoethyl thiocyanate (3.39 g, 15.9 mmol) in acetic acid (25 ml), and the mixture was stirred at 130° C. for 2 hours and stirred at room temperature for 1 hour. Water was poured to the reaction mixture, and crystals were collected by filtration and washed with water to give 3.23 g (73.6%) of the desired product as a solid.

reactant | hydrogen bromide acetic acid | 25 ml | Br.C(C)(=O)O
reactant | 2-(2,4-difluorophenyl)-2-oxoethyl thiocyanate | 15.9 mmol, 3.39 g | FC1=C(C=CC(=C1)F)C(CSC#N)=O | C9H5F2NOS
reactant | Water | O | H2O
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 2-Bromo-4-(2,4-difluorophenyl)-1,3-thiazole | 3.23 g, 73.6% | BrC=1SC=C(N1)C1=C(C=C(C=C1)F)F | C9H4BrF2NS
